US04777281
2-Bromo-7,8-dichloro-6-methoxy-1-tetralone (0.01 mole), benzene (50 ml), dimethyl sulfoxide (5 ml), propionaldehyde (3 ml, 0.04 mole) and zinc dust (6.5 g, 0.1 mole) were stirred under nitrogen. After 48 hours, the reaction mixture was poured into ice water, washed with brine, dried over MgSO4 and filtered, treated with 300 mg of para-toluene sulfonic acid, then refluxed for 15 minutes. The reaction mixture was cooled, filtered, evaporated and chromatographed on 140 g SiO2 (ethyl acetatehexane 3:7) to yield 1.25 g of 7,8-dichloro-6-methoxy-2-propylidene-1-tetralone which was directly used in Step C.

reactant | 2-Bromo-7,8-dichloro-6-methoxy-1-tetralone | 0.01 mole | BrC1C(C2=C(C(=C(C=C2CC1)OC)Cl)Cl)=O | C11H9BrCl2O2
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | propionaldehyde | 0.04 mole, 3 ml | C(CC)=O | C3H6O
catalyst | zinc | 0.1 mole, 6.5 g | [Zn] | Zn
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 7,8-dichloro-6-methoxy-2-propylidene-1-tetralone | 1.25 g | ClC1=C(C=C2CCC(C(C2=C1Cl)=O)=CCC)OC | C14H14Cl2O2
